US04130562
Starting from 4,5-dimethyl-2-thiono-4-oxazoline and N-ethylthiophthalimide there is obtained (4,5-dimethyl-2-oxazolyl)ethyl-disulphide. nD20 = 1.5467. IR (liq.): bands inter alia at 3020, 2970, 1640, 1450, 1175, 1105, 950, 745 cm-1.

reactant | 4,5-dimethyl-2-thiono-4-oxazoline | CC=1NC(OC1C)=S | C5H7NOS
reactant | N-ethylthiophthalimide | C(C)N1C(C=2C(C1=O)=CC=CC2)=S | C10H9NOS
product | (4,5-dimethyl-2-oxazolyl)ethyl-disulphide | CC=1N=C(OC1C)SSCC | C7H11NOS2
